US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and 2-(2-methoxyethoxy)-ethanol, there is obtained 2-(2-methoxyethoxy)-ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e:M+ 340 (20), 237 (80), 194 (100), 59 (45).

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | 2-(2-methoxyethoxy)-ethanol | COCCOCCO | C5H12O3
product | 2-(2-methoxyethoxy)-ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCOCCOC)=N | C20H24N2O3
